US05972965
To a solution of (4R)-4-(4,5-diphenyloxazol-2-yl)-4-benzyloxycarbonylamino-1-butene (5.2 g) in THF (50 ml) was added 9-borabicyclo[3.3.1]nonane (9-BBN) (98 ml, 0.5M solution of THF) at 0° C. After stirred for 4 hours at room temperature, 2N NaOH solution (20 ml) and 35% H2O2 solution (20 ml) were added to the mixture at the 0° C. The mixture was stirred for 1 hour at the same temperature and partitioned between ethyl acetate and water. The organic layer was washed with 1N-HCl, water, sat. NaHCO3 and brine. The dried solvent was evaporated in vacuo and the residue was purified by chromatography on silica gel to give (1R)-N-benzyloxycarbonyl-4-hydroxy-1-(4,5-diphenyloxazol-2-yl)butylamine (13 g). MS (m/z): 443 (M+ +1) IR (Neat): 3300, 1700 cm-1NMR (CDCl3, δ): 1.6-2.2 (4H, m), 3.68 (2H, m), 5.10-5.2 (1H, m), 5.14 (2H, s), 5.73 (1H, d, J=10.0 Hz), 7.2-7.7 (15H, m)

reactant | (4R)-4-(4,5-diphenyloxazol-2-yl)-4-benzyloxycarbonylamino-1-butene | 5.2 g | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)[C@@H](CC=C)NC(=O)OCC1=CC=CC=C1 | C27H24N2O3
reactant | 9-borabicyclo[3.3.1]nonane | 0.5M, 98 ml | C12CCCC(CCC1)B2 | C8H15B
reactant | NaOH | 2N, 20 ml | [OH-].[Na+]
reactant | H2O2 | 20 ml | OO | H2O2
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | (1R)-N-benzyloxycarbonyl-4-hydroxy-1-(4,5-diphenyloxazol-2-yl)butylamine | 13 g | C(C1=CC=CC=C1)OC(=O)N[C@H](CCCO)C=1OC(=C(N1)C1=CC=CC=C1)C1=CC=CC=C1 | C27H26N2O4
